US06653313B2
A. Methyl 3-[2-[2-(tritylamino)ethoxy)phenyl]propionate
Diethyl azodicarboxylate (4.2 ml, 26.4 mmol) was added to a mixture of 2-(tritylamino)ethanol (6.08 g, 20.0 mmol), methyl 3-(2-hydroxyphenyl)propionate (5.00 g, 26.4 mmol), triphenylphosphine (6.91 g, 30.5 mmol) and THF (90 ml) at room temperature under nitrogen, and the mixture was standing for 20 hours at room temperature. The solvent was removed in vacuum. The residue was purified on SiO2, eluting with ethyl acetate-hexane (1:15), to afford the titled product as a colorless oil. (5.88 g, 49%)

reactant | Diethyl azodicarboxylate | 26.4 mmol, 4.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(tritylamino)ethanol | 20.0 mmol, 6.08 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCO | C21H21NO
reactant | methyl 3-(2-hydroxyphenyl)propionate | 26.4 mmol, 5.00 g | OC1=C(C=CC=C1)CCC(=O)OC | C10H12O3
reactant | triphenylphosphine | 30.5 mmol, 6.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | Methyl 3-[2-[2-(tritylamino)ethoxy)phenyl]propionate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCOC1=C(C=CC=C1)CCC(=O)OC | C31H31NO3
